US05051337
In refluxed propionic acid, 30 g of 4-carboxybenzaldehyde was reacted with 13.4 g of pyrrole to obtain 6.9 g of 5,10,15,20-tetra(4-carboxyphenyl)porphine. This porphine derivative was reacted with an aqueous solution containing four equivalents of sodium hydroxide to obtain tetrasodium 5,10,15,20-tetra(4-carbonatophenyl)porphine.

reactant | 4-carboxybenzaldehyde | 30 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | pyrrole | 13.4 g | N1C=CC=C1 | C4H5N
solvent | propionic acid | C(CC)(=O)O | C3H6O2
product | 5,10,15,20-tetra(4-carboxyphenyl)porphine | 6.9 g | C(=O)(O)C1=CC=C(C=C1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC=C(C=C4)C(=O)O)N3)C3=CC=C(C=C3)C(=O)O)=N2)C2=CC=C(C=C2)C(=O)O | C48H30N4O8
